US07973164B2
Using an analogous procedure to that described in the portion of Example 17 that is concerned with the preparation of starting materials, 2-(4-benzyloxy-2-methoxyphenyl)acetic acid was reacted at 75° C. for 3 hours with 3-amino-5-ethylpyrazole to give N-(5-ethylpyrazol-3-yl)-2-(4-benzyloxy-2-methoxyphenyl)acetamide; 1H NMR: (DMSOd6) 1.15 (t, 3H), 2.55 (q, 2H), 3.48 (s, 2H), 3.73 (s, 3H), 5.09 (s, 2H), 6.24 (s, 1H), 6.54 (m, 1H), 6.62 (d, 1H), 7.06 (d, 1H), 7.33 (t, 1H), 7.39 (m, 2H), 7.45 (m, 2H), 10.15 (br s, 1H); Mass Spectrum: M+H+ 366; which material was hydrogenated to give N-(5-ethylpyrazol-3-yl)-2-(4-hydroxy-2-methoxyphenyl)acetamide; 1H NMR: (DMSOd6) 1.15 (t, 3H), 2.53 (q, 2H), 3.43 (s, 2H), 3.68 (s, 3H), 6.24 (br s, 1H), 6.28 (m, 1H), 6.37 (d, 1H), 6.93 (d, 1H), 9.29 (br s, 1H), 10.09 (br s, 1H); Mass Spectrum: M+H+ 276.

reactant | 2-(4-benzyloxy-2-methoxyphenyl)acetic acid | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CC(=O)O)OC | C16H16O4
reactant | 3-amino-5-ethylpyrazole | NC1=NNC(=C1)CC | C5H9N3
product | N-(5-ethylpyrazol-3-yl)-2-(4-benzyloxy-2-methoxyphenyl)acetamide | C(C)C1=CC(=NN1)NC(CC1=C(C=C(C=C1)OCC1=CC=CC=C1)OC)=O | C21H23N3O3
